US07427635B2
To a suspension of copper (I) bromide dimethyl sulfide complex (12.4 g, 60.6 mmol) in dry tetrahydrofuran (150 mL) at −10° C. was added phenyl magnesium chloride solution (30.3 mL, 60.6 mmol, 2 M in tetrahydrofuran). The reaction mixture was stirred at −10° C. for 1 hour, then a solution of (S)-3-((E)-pent-2-enoyl)-4-phenyl-oxazolidin-2-one (9.9 g, 40.4 mmol) in tetrahydrofuran (100 mL) was added dropwise via cannula. The reaction mixture was stirred at −10° C. for 0.5 hours, then at room temperature for 2 hours. The mixture was quenched with saturated aqueous ammonium chloride solution (150 mL), concentrated under reduced pressure to half of its volume. The mixture was extracted with ethyl acetate (2×250 mL). The organic layer was separated, combined and dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by chromatography over silica gel eluted with 2:1 ethyl acetate/hexanes to give (S)-4-phenyl-3-((R)-3-phenyl-pentanoyl)-oxazolidin-2-one as a colorless oil which solidified on standing at room temperature (9.56 g, 73%).

reactant | phenyl magnesium chloride | 60.6 mmol, 2 M, 30.3 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | (S)-3-((E)-pent-2-enoyl)-4-phenyl-oxazolidin-2-one | 40.4 mmol, 9.9 g | C(\C=C\CC)(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O | C14H15NO3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (S)-4-phenyl-3-((R)-3-phenyl-pentanoyl)-oxazolidin-2-one | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(C[C@@H](CC)C1=CC=CC=C1)=O | C20H21NO3
